test of integrated degradation monitor

*Inverter sequence

.lib "$PDK_ROOT/$PDK/libs.tech/ngspice/models/cornerMOSlv.lib" mos_tt

.include "aging_par_ng.scs"

* the voltage sources: 
Vdd vdd gnd DC 1.8
V1 in gnd pulse(0 1.8 0p 100p 100p 0.5n 2n)

Xnot1 in vdd gnd out1 not1
Xnot2 out1 vdd gnd out2 not1
Xnot3 out2 vdd gnd out not1


.subckt not1 a vdd vss z
xm01   z a     vdd     vdd sg13_lv_pmos  l=0.15u  w=0.99u  as=0.26235p  ad=0.26235p  ps=2.51u   pd=2.51u
xm02   z a     vss     vss sg13_lv_nmos  l=0.15u  w=0.495u as=0.131175p ad=0.131175p ps=1.52u   pd=1.52u
*adegmon1 %v([z a vss vss]) mon degmon1
*.model degmon1 degmon (tfuture=315336e4 l=0.15e-6 devmod="sg13_lv_nmos")
c3  a     vss   0.384f
c2  z     vss   0.576f
.ends

* simulation command: 
.tran 1ps 20ns 0 10p

.control
pre_osdi ../lib/ngspice/psp103_nqs.osdi
pre_osdi ../lib/ngspice/psp103.osdi
run
rusage
degsim
run
*set nolegend
set xbrushwidth=3
plot xnot1.mon1 xnot2.mon1 xnot3.mon1
plot in out+2
.endc

.end